US05998433
b) Synthesis of (Z)-N,N-dimethyl-[5-(2-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.582 g (1.458 mmol) of (Z)-5-(2-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 10 ml of acetic acid, 0.20 g (2.19 mmol) of 50% aqueous dimethylamine and 0.18 g (2.19 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 0.5 hours. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | (Z)-5-(2-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 1.458 mmol, 0.582 g | ClC1=C(C=CC=C1)\C=C/C1=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)OC=C2 | C21H18ClNO3S
reactant | dimethylamine | 2.19 mmol, 0.20 g | CNC | C2H7N
reactant | formaldehyde | 2.19 mmol, 0.18 g | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (Z)-N,N-dimethyl-[5-(2-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(\C=C/C2=C(C=CC=C2)Cl)C=C1 | C24H25ClN2O3S
